US04029780
3,7-Dichloro-2H-1,2,4-benzothiadiazine 1,1-dioxide
To a stirred suspension of 8.0 g of 7-chloro-3,4-dihydro-3-oxo-2H-1,2,4-benzothiadiazine 1,1-dioxide in 80 g of phosphorus oxychloride is added dropwise 7.4 g of 2,6-lutidine, while the mixture is cooled in an ice bath. After the addition, the mixture is heated under reflux for 12 hours and concentrated under reduced pressure. To the residue is added 400 ml of ice water and the resulting mixture is stirred for 30 minutes. The crystalline precipitate is collected by suction filtration, washed with water and then with 2-propanol, and recrystallized from 2-propanol to afford the desired product, m.p. 242°-244° C.

reactant | 7-chloro-3,4-dihydro-3-oxo-2H-1,2,4-benzothiadiazine 1,1-dioxide | 8.0 g | ClC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C7H5ClN2O3S
reactant | 2,6-lutidine | 7.4 g | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphorus oxychloride | 80 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3,7-Dichloro-2H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
